US08314138B2
To a solution of 2-bromo-4-methyl-thiazole-5-carboxylic acid ethyl ester (2.0 g, 7.99 mmol) in toluene (60 mL), water (20 mL) and ethanol (20 mL) was added 1H-pyrazole-5-boronic acid (1.79 g, 15.99 mmol), Pd(PPh3)4 (0.92 g, 0.80 mmol), and potassium carbonate (3.30 g, 23.98 mmol). The resulting mixture was degassed three times and heated to 100° C. for 16 hr. The reaction mixture was cooled to room temperature, diluted with ethyl acetate (200 mL) and washed with brine (2×100 mL). The organic phase was dried (Na2SO4) and evaporated. The residue was purified by flash column chromatography (hexanes:ethyl acetate, 1:1) to provide 4-methyl-2-(2H-pyrazol-3-yl)-thiazole-5-carboxylic acid ethyl ester (1.5 g, 83% yield) as a yellow solid. MS (M+H)+=238; Rt=1.2 min.

reactant | 2-bromo-4-methyl-thiazole-5-carboxylic acid ethyl ester | 7.99 mmol, 2.0 g | C(C)OC(=O)C1=C(N=C(S1)Br)C | C7H8BrNO2S
reactant | 1H-pyrazole-5-boronic acid | 15.99 mmol, 1.79 g | N1N=CC=C1B(O)O | C3H5BN2O2
reactant | potassium carbonate | 23.98 mmol, 3.30 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 20 mL | O | H2O
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Pd(PPh3)4 | 0.80 mmol, 0.92 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-methyl-2-(2H-pyrazol-3-yl)-thiazole-5-carboxylic acid ethyl ester | 1.5 g, 83% yield | C(C)OC(=O)C1=C(N=C(S1)C=1NN=CC1)C | C10H11N3O2S
